US04535183
(E) 6-Hydroxy-2-methoxy-3-n-propoxybenzaldehyde
1 ml of bromobenzene (11.88 ml) was added to a mixture of lithium chips (1.63 g) and anhydrous ether (90 ml) under nitrogen. When the reaction had commenced the remainder of the bromobenzene was added dropwise to the stirred mixture at such a rate as to cause gentle refluxing. After the addition was complete the mixture was stirred and refluxed (1 hr) and then cooled to room temperature. 3-Methoxy-4-n-propoxyphenol tetrahydropyranyl ether (30.03 g, 0.113 M) was added dropwise to the stirred mixture and then stirred at room temperature (3 days). A solution of anhydrous dimethyl formamide (8.5 ml) in anhydrous ether (8.5 ml) was added dropwise to the stirred mixture at such a rate as to cause gentle refluxing, and then stirred for an extra hour. The reaction mixture was poured into 2 N sulphuric acid/ice (200 ml) and extracted with ethyl acetate. The combined extracts were washed with water, dried (sodium sulphate) and evaporated. The residue was dissolved in 95% ethanol (175 ml) and 2 N hydrochloric acid (210 ml) was added. After stirring at room temperature (2 hr) the mixture was diluted with water (500 ml) and extracted with ethyl acetate/ether (1:1). The combined extracts were extracted with 2 N sodium hydroxide solution, the combined aqueous phases acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The combined extracts were washed with water, dried (sodium sulphate) and evaporated. The residue was chromatographed on silica (MFC) eluting with chloroform-methanol (98:2) to give 6-hydroxy-2-methoxy-3-n-propoxybenzaldahyde as an oil.

reactant | bromobenzene | 1 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | lithium | [Li] | Li
reactant | 3-Methoxy-4-n-propoxyphenol tetrahydropyranyl ether | 0.113 M, 30.03 g | O1C(CCCC1)OC1=CC(=C(C=C1)OCCC)OC | C15H22O4
reactant | dimethyl formamide | 8.5 ml | CN(C=O)C | C3H7NO
solvent | ether | 8.5 ml | CCOCC | C4H10O
solvent | ether | 90 ml | CCOCC | C4H10O
product | 6-Hydroxy-2-methoxy-3-n-propoxybenzaldehyde | OC1=CC=C(C(=C1C=O)OC)OCCC | C11H14O4
